data/mechanism_extracts/OrgBiomolChem/10.1039_D4OB01626B.json
{"doi": "10.1039_D4OB01626B", "journal": "OrgBiomolChem", "is_review": false, "rxn_class_summary": "Electrochemical cascade synthesis of five- and six-membered thiazolidine-2-imines via C–S/C–S(Se) bond formation from isothiocyanates, N-2-en-1-amines, and KSCN/KSeCN", "mechanism_family": ["radical_anodic", "anion_initiated", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of SCN- (or SeCN-) anion to thiocyanyl radical (and its dimer (SCN)2); cathodic reduction of protons to H2", "key_intermediates": [{"name": "N-alkylurea (unsaturated N-allyl thiourea III, from amine addition to isothiocyanate)", "smiles": null, "role": "reactive"}, {"name": "Thiocyanyl radical SCN•", "smiles": "[S]C#N", "role": "reactive"}, {"name": "(SCN)2 dimer", "smiles": "N#CSSC#N", "role": "reactive"}, {"name": "Carbon-centered radical IV (thiocyanyl-added to olefin of III)", "smiles": null, "role": "transient"}, {"name": "Cationic intermediate V (after anodic SET of IV)", "smiles": null, "role": "transient"}, {"name": "Cationic intermediate VI (from III + (SCN)2, ionic path b)", "smiles": null, "role": "transient"}, {"name": "N-alkylurea intermediate 41 (1-allyl-1-methyl-3-phenylthiourea, isolated)", "smiles": "CN(CC=C)C(=S)Nc1ccccc1", "role": "reactive"}, {"name": "Thiazolidine-2-imine product VII", "smiles": null, "role": "reactive"}], "electron_flow": "Amine adds to isothiocyanate to form N-allyl thiourea III; at the anode, SCN- is oxidized to SCN• (and dimerizes to (SCN)2). Path a: SCN• adds to the pendant olefin of III to give C-radical IV, which is further anodically oxidized to cation V and cyclized by intramolecular S-attack with deprotonation to product VII. Path b: (SCN)2 acts as electrophile on III to give cation VI plus SCN-, then cyclization. Cathode reduces protons to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Yield dropped to 12%, indicating involvement of radical pathway"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Yield dropped to 31%, supporting radical intermediate"}, {"name": "Cinnamyl-type aryl-substituted N-2-en-1-amine (42)", "smiles": null, "purpose": "radical_clock", "observation": "Six-membered thiazolidine-2-imine 43 obtained in 76% yield, consistent with stabilized benzylic radical intermediate"}, {"name": "Isolated N-alkylurea 41", "smiles": "CN(CC=C)C(=S)Nc1ccccc1", "purpose": "intermediate_trap", "observation": "Isolated in 92% under standard conditions in 5 min, confirming initial amine + isothiocyanate addition"}, {"name": "KSCN (CV probe)", "smiles": "[K+].[S-]C#N", "purpose": "redox_probe", "observation": "Oxidation peak at 1.40 V vs Ag/AgCl, attributed to SCN- → SCN• then dimerization to (SCN)2; thiourea 41 showed no oxidation peak"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "isolation_of_intermediate", "cyclic_voltammetry", "radical_clock"], "evidence_strength": "medium", "notes": "Authors propose two parallel pathways: a radical path a (SCN• addition then anodic oxidation to cation) and an ionic path b ((SCN)2 acting as electrophile). Both are stated to operate; favored description in scheme starts with path a. Reaction is metal-, oxidant-, and electrolyte-free, undivided cell with graphite electrodes."}
